US08440652B2
To a 0° C. solution of (E)-6′-bromospiro[cyclopropane-1,1′-inden]-3′(2′H)-one oxime (500 mg, 1.98 mmol) in THF (5 mL) was added triethylamine (332 μL, 2.38 mmol) followed by slow addition of MsCl (170 μL, 2.18 mmol). The reaction was stirred 10 minutes at 0° C. then concentrated. The residue was triturated from methanol (5 mL) to afford (E)-6′-bromospiro[cyclopropane-1,1′-inden]-3′(2′H)-one O-methylsulfonyl oxime (653 mg, 100% yield) as a white solid after drying under high vacuum. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.64 (d, J=8.4 Hz, 1H), 7.42 (dd, J=8.3, 1.6 Hz, 1H), 6.98 (d, J=1.5 Hz, 1H), 3.26 (s, 3H), 3.15 (s, 2H), 1.06-1.42 (m, 4H); MS (EI) m/z=331.2 [M+1]+.

reactant | (E)-6′-bromospiro[cyclopropane-1,1′-inden]-3′(2′H)-one oxime | 1.98 mmol, 500 mg | BrC1=CC=C2/C(/CC3(C2=C1)CC3)=N/O | C11H10BrNO
reactant | triethylamine | 2.38 mmol, 332 μL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 2.18 mmol, 170 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (E)-6′-bromospiro[cyclopropane-1,1′-inden]-3′(2′H)-one O-methylsulfonyl oxime | 653 mg, 100% yield | CS(=O)(=O)O\N=C\1/CC2(C3=CC(=CC=C13)Br)CC2 | C12H12BrNO3S
